US04338333
N-[2-(4-Carbomethoxymethoxyphenyl)-1-methylethyl]-2-hydroxy-2-(2-fluorophenyl) ethanamine
The compound was prepared as in Example 5 from 1-(4-carbomethoxymethoxyphenyl) propan-2-one (2.22 g) and 2-hydroxy-2-(2-fluorophenyl) ethanamine (1.55 g), and crystallised from hexane m.p. 60°-80° as a 55:45 mixture of diastereoisomers.

reactant | 1-(4-carbomethoxymethoxyphenyl) propan-2-one | 2.22 g | C(=O)(OC)COC1=CC=C(C=C1)CC(C)=O | C12H14O4
reactant | 2-hydroxy-2-(2-fluorophenyl) ethanamine | 1.55 g | OC(CN)C1=C(C=CC=C1)F | C8H10FNO
product | N-[2-(4-Carbomethoxymethoxyphenyl)-1-methylethyl]-2-hydroxy-2-(2-fluorophenyl) ethanamine | C(=O)(OC)COC1=CC=C(C=C1)CC(C)NCC(C1=C(C=CC=C1)F)O | C20H24FNO4
